US04415571
6.0 g (29.5 millimoles) of 6-(p-aminophenyl)-4,5-dihydro-dihydro-5-methyl-3(2H)-pyridazinone and 3.3 g (34.9 millimoles) of methyl chloroformate in 100 ml of absolute toluene are kept for 6 hours at 80° C. The product is filtered off at 10° C., washed first with toluene and then with water, and recrystallized from dimethylformamide/water. 3.1 g (40% of theory) of 4,5-dihydro-6-(p-methoxycarbonylaminophenyl)-5-methyl-3(2H)-pyridazinone are obtained as colorless crystals, of melting point 228°-229° C.

reactant | 6-(p-aminophenyl)-4,5-dihydro-dihydro-5-methyl-3(2H)-pyridazinone | 29.5 millimoles, 6.0 g | NC1=CC=C(C=C1)C1C(CC(NN1)=O)C | C11H15N3O
reactant | methyl chloroformate | 34.9 millimoles, 3.3 g | ClC(=O)OC | C2H3ClO2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 4,5-dihydro-6-(p-methoxycarbonylaminophenyl)-5-methyl-3(2H)-pyridazinone | 3.1 g, 40% | COC(=O)NC1=CC=C(C=C1)C=1C(CC(NN1)=O)C | C13H15N3O3
